US05476952
A mixture of 2,3-dihydro-4-phenylthiomethyl-1H-cyclopent[a]-anthracene-6,11-dione (350 mg, 0.95 mmol) and cyanogen bromide solution (5.0M) in acetonitrile (8 mL, 4 mmol) is heated at reflux for 4.5 hours under nitrogen. After cooling, the mixture is washed with H2O (20 mL×3), dried (Na2SO4) and evaporated in vacuo to dryness. The residue is then treated with boiling ethyl ether for 10 minutes and then stored in the refrigerator overnight. The product, 2,3-dihydro-4-bromomethyl-1H-cyclopent[a]-anthracene-6,11-dione (208 mg, 61%), is obtained after filtration and dried, mp 225°-230° C. The compound is used directly in the next step without further purification. 1H NMR (CDCl3): δ2.22 (2H, dt, J=7.14 Hz, J=7.69 Hz, CH2 -2), 3.06 (2H, t, J=7.14 Hz, CH2 -3), 3.53 (2H, t, J=7.69 Hz, CH2 -1), 4.54 (2H, s, CH2 --S), 7.22-8.37 (5H, m, Ar--H).

reactant | 2,3-dihydro-4-phenylthiomethyl-1H-cyclopent[a]-anthracene-6,11-dione | 0.95 mmol, 350 mg | C1(=CC=CC=C1)SCC1=C2C(=C3C(C4=CC=CC=C4C(C3=C1)=O)=O)CCC2 | C24H18O2S
reactant | cyanogen bromide | 5.0M | N#CBr | CBrN
reactant | acetonitrile | 4 mmol, 8 mL | C(C)#N | C2H3N
product | 2,3-dihydro-4-bromomethyl-1H-cyclopent[a]-anthracene-6,11-dione | 208 mg, 61% | BrCC1=C2C(=C3C(C4=CC=CC=C4C(C3=C1)=O)=O)CCC2 | C18H13BrO2
